US09302988B2
Step 3: Ethyl 1-benzyl-3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate
A solution of ethyl 3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate (5.5 g, 22.26 mmol) in DMF (12 mL) was added to a mixture of 60% NaH (1.1 g, 33.39 mmol) in dry DMF (20 mL) at 0° C. under a N2 atmosphere and the mixture was stirred for 15 min. Benzyl bromide (2.9 mL, 24.49 mmol) was added and it was stirred at 80° C. for 12 h. The reaction mixture was cooled to 0° C., quenched with brine (20 mL), diluted with water (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water (75 mL) and brine (75 mL), dried (Na2SO4) and concentrated under reduced pressure to afford the desired product (6.5 g, 87%) as brown color solid.

reactant | ethyl 3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 22.26 mmol, 5.5 g | FC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)OCC | C14H14FNO2
reactant | NaH | 33.39 mmol, 1.1 g | [H-].[Na+]
reactant | Benzyl bromide | 24.49 mmol, 2.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-benzyl-3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 6.5 g, 87% | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)F)C(=O)OCC | C21H20FNO2
